US08222417B2
Synthesis of 1,2,3,4-tetrahydroquinoxaline
Under a nitrogen atmosphere, to a solution of lithium borohydride (741 mg) in tetrahydrofuran (50 ml), methyl iodide (1.93 ml) was added dropwise under ice cooling and stirred at room temperature for 10 minutes. To this mixture, a solution of quinoxaline (1.32 g) in tetrahydrofuran (100 ml) was added dropwise over 15 minutes and then stirred at room temperature for 5 minutes. To the reaction mixture, methanol (10 ml) was added and stirred for 5 minutes, followed by addition of additional methanol (40 ml) and stirring at room temperature for 30 minutes. After the reaction mixture was concentrated, the resulting residue was dissolved again in methanol and evaporated under reduced pressure to remove the solvent. The resulting residue was diluted with 4M aqueous sodium hydroxide (100 ml) and extracted four times with chloroform. The combined organic layers were dried over anhydrous sodium sulfate and then filtered to remove the desiccant, followed by distilling off the solvent under reduced pressure. The resulting residue was converted into a powder form by addition of n-hexane, and then collected by filtration to give the titled compound, i.e., 1,2,3,4-tetrahydroquinoxaline (1.17 g) as a light-brown crystal.

reactant | lithium borohydride | 741 mg | [BH4-].[Li+]
reactant | quinoxaline | 1.32 g | N1=CC=NC2=CC=CC=C12 | C8H6N2
reactant | methanol | 10 ml | CO | CH4O
reactant | methanol | 40 ml | CO | CH4O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methyl iodide | 1.93 ml | CI | CH3I
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 1,2,3,4-tetrahydroquinoxaline | 1.17 g | N1CCNC2=CC=CC=C12 | C8H10N2
